US05011993
5-(Bromoacetyl)-2-hydroxybenzaldehyde (109 g) is suspended in 2-propanol (920 ml) and cooled to -3° C. with stirring. The reaction mixture is treated with 1,1-dimethylethanamine (29.24 g) and stirred at -3° to 0° C. for 30 minutes whereupon precipitation occurs. The reaction mixture is allowed to warm to room temperature, stirred for 90 minutes then cooled to 10° C. and filtered. The solid obtained is washed with ice cold 2-propanol (2×100 ml) and dried in vacuo at 55° C. for 18 hours providing 89 g of 2-bromo-1-[3-[[(1,1-dimethylethyl)imino]methyl]-4-hydroxyphenyl]ethanone.

reactant | 5-(Bromoacetyl)-2-hydroxybenzaldehyde | 109 g | BrCC(=O)C=1C=CC(=C(C=O)C1)O | C9H7BrO3
reactant | 1,1-dimethylethanamine | 29.24 g | CC(C)(N)C | C4H11N
solvent | 2-propanol | 920 ml | CC(C)O | C3H8O
product | 2-bromo-1-[3-[[(1,1-dimethylethyl)imino]methyl]-4-hydroxyphenyl]ethanone | 89 g | BrCC(=O)C1=CC(=C(C=C1)O)C=NC(C)(C)C | C13H16BrNO2
